US05493056
To a solution of pentafluorobenzene (4.40 g, 26.2 mmol) and diethyl ether (50 ml) was added dropwise a 20 wt. % sec-butyllithium/hexane solution (7.98 g, 25.0 mmol) while keeping the temperature of the reaction mixture at -55° to -65° C., and, after the completion of dropwise addition, the mixture was stirred for about 0.5 hours while keeping the temperature at -25°-50° C. Thereafter, a 20.0 wt. % tris(pentafluorophenyl)borane/toluene solution (63.8 g, 25.0 mmol was mixed while keeping the temperature of the reaction mixture at -25° to -40° C., which was stirred for 30 minutes at the same temperature and then the temperature was raised to room temperature. From the solution of lithium tetrakis(pentafluorophenyl)borate thus obtained, diethyl ether was removed by distillation and the organic layer was washed thrice with 20 mL of water. After combining the aqueous layers, 1.1 equivalent to the boron source of an aqueous solution of N,N-dimethylanilinium chloride was reacted with the aqueous layer to deposit white crystals. The crystals obtained were filtered, washed with water and then dried under vacuum to obtain N,N-dimethuylanilinium tetrakis(pentafluorophenyl)borate in 96.1% yield. When determining the purity by means of 1H and 19F NMR using pentafluorotoluene as an internal standard material, it showed 98% or higher.

reactant | pentafluorobenzene | 26.2 mmol, 4.40 g | FC=1C(=C(C(=C(C1)F)F)F)F | C6HF5
reactant | sec-butyllithium hexane | 25.0 mmol, 7.98 g | C(C)(CC)[Li].CCCCCC
reactant | tris(pentafluorophenyl)borane toluene | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C1(=CC=CC=C1)C
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | lithium tetrakis(pentafluorophenyl)borate | FC1=C(C(=C(C(=C1[B-](C1=C(C(=C(C(=C1F)F)F)F)F)(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.[Li+] | InChI=1S/C24BF20.Li/c26-5-1(6(27)14(35)21(42)13(5)34)25(2-7(28)15(36)22(43)16(37)8(2)29,3-9(30)17(38)23(44)18(39)10(3)31)4-11(32)19(40)24(45)20(41)12(4)33;/q-1;+1
